US07781426B2
To a 0° C. solution of 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde (99.3 mg, 0.199 mmol) in MeOH (5 mL) was added excess NaBH4. The reaction was stirred for 30 minutes, and then quenched with saturated NH4Cl solution (10 mL), diluted with EtOAc (60 mL), and washed with brine (25 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (10 to 50% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(hydroxymethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.54 (75% EtOAc/hexanes). LCMS=502.1 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.87 (s, 1H), 7.75 (s, 2H), 7.62 (s, 2H), 7.51 (s, 1H), 5.79 (d, J=8.0 Hz, 1H), 5.06 (d, J=15.5 Hz, 1H), 4.83 (d, J=5.1 Hz, 2H), 4.25 (d, J=15.6 Hz, 1H), 4.01-3.99 (m, 1H), 0.79 (d, J=6.6 Hz, 3H).

reactant | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde | 0.199 mmol, 99.3 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=O)C=CC(=C1)C(F)(F)F)C)(F)F | C21H14F9NO3
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(hydroxymethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CO)C)(F)F | C21H16F9NO3
